US04806549
3-methoxyacetyl-4-chloro-8-methoxyquinoline (19.0 g, 0.07 mol) and o-toluidine (9.0 ml, 0.08 mol) were heated under reflux in 1,4-dioxan (250 ml) for 1 hour. The solvent was removed and the residue taken up in dichloromethane, washed with dilute hydrochloric acid, sodium hydrogen carbonate solution, and brine. Evaporation of the solvent gave an oil, which afforded 8-methoxy-3-methoxymethylcarbonyl-4-(2-methylphenylamino)quinoline (19.5 g, 81%) as yellow crystals from ether, m.p. 122°-3°.

reactant | 3-methoxyacetyl-4-chloro-8-methoxyquinoline | 0.07 mol, 19.0 g | COCC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | o-toluidine | 0.08 mol, 9.0 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | ether | CCOCC | C4H10O
solvent | 1,4-dioxan | 250 ml | O1CCOCC1 | C4H8O2
product | 8-methoxy-3-methoxymethylcarbonyl-4-(2-methylphenylamino)quinoline | 19.5 g, 81% | COC=1C=CC=C2C(=C(C=NC12)C(=O)COC)NC1=C(C=CC=C1)C | C20H20N2O3
